US06528525B1
2-Butyl-3-[4-[2-(indole-3-carbonylamino)ethoxy]phenyl]propionic acid (exemplification No. 4-143 compound)
In a similar manner to that described in Example 2, ethyl 2-butyl-3-[4-[2-(indole-3-carbonylamino)ethoxy]phenyl]propionate (650 mg), which is the product of Example 59, was reacted with aqueous sodium hydroxide solution (1N, 5.00 ml) and the reaction mixture was treated to give the title compound (500 mg) as a white powder.

reactant | ethyl 2-butyl-3-[4-[2-(indole-3-carbonylamino)ethoxy]phenyl]propionate | 650 mg | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C1=CNC2=CC=CC=C12 | C26H32N2O4
reactant | sodium hydroxide | 1N, 5.00 ml | [OH-].[Na+]
product | 2-Butyl-3-[4-[2-(indole-3-carbonylamino)ethoxy]phenyl]propionic acid | 500 mg | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C1=CNC2=CC=CC=C12 | C24H28N2O4
